US07786165B2
ethyl 3-(4-aminophenyl)-2,2-difluoropropanoate
To a solution of ethyl 2,2-difluoro-3-{[(4-methylphenyl)sulfonyl]oxy}-3-(4-nitrophenyl)propanoate (1.06 g, 2.80 mmol) in ethyl acetate (30 mL) was added 10% palladium-carbon (50% water-containing product, 0.50 g), and the mixture was stirred at room temperature for 16 hr under a hydrogen atmosphere (balloon pressure). To the reaction mixture was added saturated aqueous sodium hydrogencarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-50% ethyl acetate/hexane) to give the title compound (255 mg, yield 40%) as a pale-yellow oil.

reactant | ethyl 2,2-difluoro-3-{[(4-methylphenyl)sulfonyl]oxy}-3-(4-nitrophenyl)propanoate | 2.80 mmol, 1.06 g | FC(C(=O)OCC)(C(C1=CC=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C1=CC=C(C=C1)C)F | C18H17F2NO7S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | ethyl 3-(4-aminophenyl)-2,2-difluoropropanoate | 255 mg, yield 40% | NC1=CC=C(C=C1)CC(C(=O)OCC)(F)F | C11H13F2NO2
